US08975254B2
b) (R)-3-acetyl-N-(2-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propyl)-1H-pyrazole-5-carboxamide
(R)-4-(1-(1-aminopropan-2-yl)-1H-pyrazol-3-yl)-2-chloro-3-methylbenzonitrile (300 mg, 1.09 mmol) was coupled with 3-acetyl-1H-pyrazole-5-carboxylic acid (202 mg, 1.31 mmol) using the method of Example 34(d). Crude product was purified by CombiFlash (column: C-18, eluent: 0-100% MeCN in water) to yield 83 mg (19%) of the title compound. 1H-NMR (400 MHz; CDCl3): δ 1.62 (d, 3H), 2.52-2.58 (m, 6H), 3.79 (dd, 1H), 3.91 (dd, 1H), 4.60-4.71 (m, 1H), 6.92 (d, 1H), 7.25 (s, 1H), 7.27-7.29 (m, 1H), 7.52 (d, 1H), 7.54-7.60 (m, 2H).

reactant | (R)-4-(1-(1-aminopropan-2-yl)-1H-pyrazol-3-yl)-2-chloro-3-methylbenzonitrile | 1.09 mmol, 300 mg | NC[C@@H](C)N1N=C(C=C1)C1=C(C(=C(C#N)C=C1)Cl)C | C14H15ClN4
reactant | 3-acetyl-1H-pyrazole-5-carboxylic acid | 1.31 mmol, 202 mg | C(C)(=O)C1=NNC(=C1)C(=O)O | C6H6N2O3
product | (R)-3-acetyl-N-(2-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propyl)-1H-pyrazole-5-carboxamide | 83 mg, 19% | C(C)(=O)C1=NNC(=C1)C(=O)NC[C@@H](C)N1N=C(C=C1)C1=C(C(=C(C=C1)C#N)Cl)C | C20H19ClN6O2
